US06503949B1
Stannous chloride (4.75 g, 21 mmol) was added to a solution of 4-cyclopropylmethoxy-1-nitro-2-trifluoromethylbenzene (1.1 g, 4.2 mmol) in ethanol (12 mL). The reaction temperature was raised to 70° C. for 1.5 hour. The reaction mixture was concentrated in vacuo and the residue dissolved in ethyl acetate (20 mL). Water (15 mL) was added and sodium hydrogen carbonate was added until pH 7. The mixture was filtered and the organic phase collected. The aqueous phase was extracted with ethyl acetate (20 mL). The combined organic phases were dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography (38 g) using heptane and ethyl acetate (9:1) as eluent to give 0.49 g of 4-cyclopropylmethoxy-2-trifluoromethylphenylamine.

reactant | 4-cyclopropylmethoxy-1-nitro-2-trifluoromethylbenzene | 4.2 mmol, 1.1 g | C1(CC1)COC1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C11H10F3NO3
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | 4-cyclopropylmethoxy-2-trifluoromethylphenylamine | 0.49 g | C1(CC1)COC1=CC(=C(C=C1)N)C(F)(F)F | C11H12F3NO
